US05102667
A mixture of 2-(2-bromophenyl)acetic acid (10.7 g), pyrrolidine (20 cc) and copper acetate (1.66 g) is heated for 2 hours, with stirring, at 90° C.; after returning to ambient temperature, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a silica gel column (0.2-0.063 mm, diameter 5 cm, height 55 cm), eluting with 1,2-dichloroethane (1,000 cc) and then with mixtures of 1,2-dichloroethane and methanol [(proportions by volume): 1,000 cc (98/2), 2,000 cc (97/3), 1,000 cc (96/4) and 1,000 cc (95/5)] and collecting 250 cc fractions. Fractions 21 to 29 are combined and concentrated to dryness under reduced pressure (2.7 kPa). 2-[2-(1-Pyrrolidinyl)phenyl]acetic acid (2 g) is obtained in the form of an orange oil.

reactant | 2-(2-bromophenyl)acetic acid | 10.7 g | BrC1=C(C=CC=C1)CC(=O)O | C8H7BrO2
reactant | pyrrolidine | 20 cc | N1CCCC1 | C4H9N
catalyst | copper acetate | 1.66 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 2-[2-(1-Pyrrolidinyl)phenyl]acetic acid | 2 g | N1(CCCC1)C1=C(C=CC=C1)CC(=O)O | C12H15NO2
